US08383637B2
2-Nitro-5-phenoxy-benzaldehyde
To a solution of 2-(dimethoxymethyl)-1-nitro-4-phenoxy-benzene (7.4 g, 0.0256 mol) in THF (80 mL) was added 12 N HCl (10 mL) and water (20 mL). The resulting mixture was stirred at room temperature for 2 days. Water was then added, and the mixture was extracted with diisopropyl ether. The organic layer was separated, washed with 10% aqueous NaHCO3 solution and then with water, dried (MgSO4), filtered, and concentrated to yield a yellow solid.

reactant | 2-(dimethoxymethyl)-1-nitro-4-phenoxy-benzene | 0.0256 mol, 7.4 g | COC(C1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-])OC | C15H15NO5
reactant | HCl | 12 N, 10 mL | Cl | ClH
reactant | water | 20 mL | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-Nitro-5-phenoxy-benzaldehyde | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)OC1=CC=CC=C1 | C13H9NO4
